US05025031
Dimethylsulfamic acid 3-chlorophenyl ester
A solution of 25.7 g (0.2 mole) of 3-chlorophenol and 34.9 g (0.24 mole) of dimethylsulfamoyl chloride (Aldrich) in 150 ml of toluene was stirred and heated at reflux for 16 h, cooled and treated with 300 ml of 15% sodium hydroxide solution. The layers were separated and the organic layer was washed with two 200 ml portions of 15% sodium hydroxide solution, 300 ml of water and dried (magnesium sulfate). The solvent was evaporated under reduced pressure and the brown viscous oil was purified by chromatography (4.5×90 in glass column, 530 g of silica gel, ethyl acetate-hexanes, 1:6). Fractions containing the desired product were combined and the solvents were evaporated under reduced pressure to yield 10.5 g (47%) of the title compound as a light yellow liquid.

reactant | 3-chlorophenol | 0.2 mole, 25.7 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | dimethylsulfamoyl chloride | 0.24 mole, 34.9 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | sodium hydroxide | 300 ml | [OH-].[Na+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Dimethylsulfamic acid 3-chlorophenyl ester | 10.5 g, 47% | ClC=1C=C(C=CC1)OS(N(C)C)(=O)=O | C8H10ClNO3S
